US06992094B1
6-(3-Adamantan-1-yl-4-methoxyphenylselanyl)nicotinic acid
The product is obtained in a manner similar to that of Example 7, starting with 3-adamantan-1-yl-4-methoxyphenyl diselenide and ethyl 6-iodonicotinate.

reactant | 3-adamantan-1-yl-4-methoxyphenyl diselenide | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)[Se][Se]C2=CC(=C(C=C2)OC)C23CC1CC(CC(C2)C1)C3 | C34H42O2Se2
reactant | ethyl 6-iodonicotinate | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
product | 6-(3-Adamantan-1-yl-4-methoxyphenylselanyl)nicotinic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)[Se]C2=NC=C(C(=O)O)C=C2 | C23H25NO3Se
